US07511066B2
F. Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-fluorobenzoate
A mixture of methyl 4-fluoro-2-hydroxybenzoate (5.1 g, 30 mmol), triphenylphosphine (9.5 g, 36 mmol), 1-tert-butoxycarbonyl-4-hydroxypiperidine (6 g, 30 mmol), and benzene (10 mL) was heated until all solids dissolved. The solution was cooled to 0° C., then sonicated while adding diethyl azodicarboxylate (6.3 g, 36 mmol) dropwise. After the addition was complete, the reaction mixture was sonicated for an additional 60 min, diluted with CH2Cl2 (25 mL), and purified by flash chromatography, eluting with 10% EtOAc in hexanes to yield the title compound (6.45 g, 61%) as a white solid.

reactant | methyl 4-fluoro-2-hydroxybenzoate | 30 mmol, 5.1 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | triphenylphosphine | 36 mmol, 9.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 30 mmol, 6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | diethyl azodicarboxylate | 36 mmol, 6.3 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | Methyl 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-fluorobenzoate | 6.45 g, 61% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)F | C18H24FNO5
